US08802659B2
3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid tert-butyl ester
3-Amino-propionic acid tert-butyl ester (106 mg, 0.727 mmol) was combined with N,N-Diisopropylethylamine (575 uL, 3.30 mmol) and 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethanone (250 mg, 0.66 mmol) in Methylene chloride (4 mL, 60 mmol). 1 M of Titanium(IV) chloride in Methylene chloride (727 uL, 0.727 mmol) was added and the mixture was stirred at RT for 5 hours. TLC (20% EtOAC/Hex) shows only traces of SM with new lower Rf spot. The reaction was cooled to 0° C. and Sodium cyanoborohydride (208 mg, 3.30 mmol) in methanol (5 mL) was added carefully in two portions (lots of bubbling so remove cap.) The reaction was then diluted with 10 mL DCM and the solids were removed via filtration. pH was adjust to 10 with 1 M NaOH and the reaction was extracted three times with methylene chloride. Organics were combined and dried over MgSO4. Solids were removed via filtration and the crude reaction was absorbed onto silica (1 g) and purified via column chromatography on 12 g SiO2 using a gradient of 0-15% Ethylacetate/hexane to give material that was impure by NMR and LCMS (compound eluted around 1% EtOAc.) Material was repurified on 24 g ISCO gold column using a long gradient of 0-10% EtOAc/Hex over 30 minutes (desired compound was 2nd major peak) to give the title compound as a colorless solid.

reactant | 3-Amino-propionic acid tert-butyl ester | 0.727 mmol, 106 mg | C(C)(C)(C)OC(CCN)=O | C7H15NO2
reactant | N,N-Diisopropylethylamine | 3.30 mmol, 575 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethanone | 0.66 mmol, 250 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)=O | C22H25F3O2
reactant | Methylene chloride | 60 mmol, 4 mL | C(Cl)Cl | CH2Cl2
reactant | Methylene chloride | 0.727 mmol, 727 uL | C(Cl)Cl | CH2Cl2
reactant | Sodium cyanoborohydride | 3.30 mmol, 208 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | Titanium(IV) chloride | 1 M | [Ti](Cl)(Cl)(Cl)Cl
product | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNC(C(F)(F)F)C1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C29H40F3NO3
